US07834013B2
Racemic-(trans)-N-isopropyl-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide (IV-19)
To a mixture of racemic-(trans)-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid (I-2n) (0.05 g, 0.11 mmol) in dichloromethane (3 mL) and DMF (1 mL) was added HATU (0.06 g, 0.16 mmol). The mixture was stirred for 15 min followed by addition of isopropylamine (0.01 g, 0.16 mmol). The solution stirred for 3 h after which the dichloromethane was removed via rotavap. Sat. NaHCO3 and ethyl acetate were added and the organic layer separated and washed with H2O, dried over MgSO4, filtered and concentrated. The resulting oil was triterated with Et2O and formed a white ppt which was filtered and dried under high vacuum to give the title compound as a white powder (0.01 g, 22%). 1H NMR (400 MHz, CDCl3) δ 7.99 (d, 8.3 Hz, 2H), 7.63 (d, J=8.2 Hz, 2H), 6.94 (d, J=8.4 Hz, 2H), 6.60 (d, J=8.5 Hz, 2H), 5.37 (d, J=7.9 Hz, 1H), 4.45 (s, 2H), 4.10-4.08 (m, 1H), 3.93 (s, 1H), 3.16-3.13 (m, 1H), 2.39-2.37 (m, 1H), 1.54-1.50 (m, 1H), 1.42-1.39 (m, 1H), 1.35 (d, J=6.8 Hz, 6H), 1.15-1.09 (m, 7H).

reactant | racemic-(trans)-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid | 0.11 mmol, 0.05 g | C(C)(C)C=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H23F3N2O2S
reactant | HATU | 0.16 mmol, 0.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | isopropylamine | 0.16 mmol, 0.01 g | C(C)(C)N | C3H9N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Racemic-(trans)-N-isopropyl-2-{4-[({4-isopropyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide | 0.01 g, 22% | C(C)(C)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C27H30F3N3OS
